US08877780B2
5.110.2 N-((2-(2,6-DIOXOPIPERIDIN-3-YL)-1-OXOISOINDOLIN-5-YL)METHYL)PIPERAZINE-1-CARBOXAMIDE
A mixture of tert-butyl 4-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methylcarbamoyl)piperazine-1-carboxylate (0.49 g, 1.0 mmol) in methylene chloride (100 mL) is treated with HCl (5 mL of a 2N solution in diethyl ether), and stirred at ambient temperature for 48 hours. The mixture is evaporated under vacuum, and triturated in ethyl acetate (10 mL), filtered, and dried under vacuum.

reactant | tert-butyl 4-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methylcarbamoyl)piperazine-1-carboxylate | 1.0 mmol, 0.49 g | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)N1CCN(CC1)C(=O)OC(C)(C)C)=O)=O | C24H31N5O6
reactant | HCl | Cl | ClH
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-((2-(2,6-DIOXOPIPERIDIN-3-YL)-1-OXOISOINDOLIN-5-YL)METHYL)PIPERAZINE-1-CARBOXAMIDE | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)N1CCNCC1)=O)=O | C19H23N5O4
